US07982071B2
Addition of acetonitrile to 3-(2-methoxybenzyloxy)benzaldehyde gave 3-(3-(2-methoxybenzyloxy)phenyl)-3-hydroxypropanenitrile as yellow oil. Yield (0.88 g, 47%): NMR (400 MHz, CDCl3) δ 7.42-7.46 (m, 1H), 7.27-7.31 (m, 2H), 6.90-7.06 (m, 5H), 5.12 (s, 2H), 5.01 (m, 1H), 3.87 (s, 3H), 2.76-2.82 (m, 2H).

reactant | 3-(2-methoxybenzyloxy)benzaldehyde | COC1=C(COC=2C=C(C=O)C=CC2)C=CC=C1 | C15H14O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(2-methoxybenzyloxy)phenyl)-3-hydroxypropanenitrile | COC1=C(COC=2C=C(C=CC2)C(CC#N)O)C=CC=C1 | C17H17NO3
